US07612067B2
Method B N-{4-Chloro-5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-thiazol-2-yl}-morpholine.
A 20 L reactor flask under nitrogen is charged with 2900 ml of dry and degassed DMF then with 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (287 g, 0.836 mol), 2-morpholino-4-chlorothiazole (205.4 g, 1.01 mol, 1.2 equv.), Pd(OAc)2 (3.74 g, 7.91 mmol, 0.01 equiv.), triphenylphosphine (8.77 g, 33.1 mmol, 0.04 equiv.), Copper iodide (8 g, 41.59 mmol, 0.05 equiv.) and cesium carbonate (544.9 g, 1.65 mol). The reaction mixture is heated at 120° C. After 16 h at 120° C., 1.87 g of Pd(OAc)2 and 4.38 g of triphenylphosphine more is added. After 1 h, the mixture is cooled, quenched with NH4Cl solution (4300 mL) and extracted with MTBE (2900 mL), the aqueous phase is extracted twice more with 2000 ml of MTBE. The organic phases are washed with sat NaCl aq (2000 mL), then treated with charcoal 72 g in flask bottle and filtered on Celite®. The filtrate is concentrated under vacuum to afford 373.8 g (79.3%) of the title compound which is 81.4%-area HPLC analysis the rest being solvent and with no detectable Example 200 by-product.

reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.836 mol, 287 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
reactant | 2-morpholino-4-chlorothiazole | 1.01 mol, 205.4 g | O1CCN(CC1)C=1SC=C(N1)Cl | C7H9ClN2OS
reactant | cesium carbonate | 1.65 mol, 544.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd(OAc)2 | 7.91 mmol, 3.74 g, 0.01 equiv. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Copper iodide | 41.59 mmol, 8 g, 0.05 equiv. | [Cu](I)I
catalyst | Pd(OAc)2 | 1.87 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | triphenylphosphine | 33.1 mmol, 8.77 g, 0.04 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | triphenylphosphine | 4.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | N-{4-Chloro-5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-thiazol-2-yl}-morpholine | 373.8 g, 79.3% | ClC=1N=C(SC1C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)N2CCOCC2 | C20H26ClN5OS
